US07655671B2
Synthesis of 14β-butoxy-4,5α-epoxy-3-hydroxy-17,17-dimethyl-6-oxomorphinanium-iodide (compound 47)
A solution of 14β-butoxy-4,5α-epoxy-3-hydroxy-17-methylmorphinan-6-one (0.53 g, 1.49 mmol) and methyl iodide (1.06 g, 7.44 mmol) in 10 ml of water-free acetonitrile was stirred under N2 at 40° C. (bath temperature) for 2 days and then evaporated down. The evaporation residue (0.70 g of brown oil) was purified using column chromatography (silica gel; CH2Cl2/MeOH 250:4). Yield: 0.31 g (42%) of colourless crystals of the compound 47. Fp. 180-185° C.; MS (CI): 372.2 (M+); IR (KBr): 1726 (C═O) cm−1; 1H-NMR (DMSO-d6, δ in ppm): 9.55 (s, OH), 6.68 (s, 2 arom. H), 4.95 (s, CH-5), 3.57 (s, CH3N+, axial), 3.21 (s, CH3N+, equatorial), 0.94 (t, O(CH2)3CH3, J=7.3 Hz).

reactant | 14β-butoxy-4,5α-epoxy-3-hydroxy-17-methylmorphinan-6-one | 1.49 mmol, 0.53 g | C(CCC)O[C@@]12CCC([C@H]3[C@]14C=1C(=C(C=CC1C[C@H]2N(CC4)C)O)O3)=O | C21H27NO4
reactant | methyl iodide | 7.44 mmol, 1.06 g | CI | CH3I
solvent | water | 10 ml | O | H2O
product | 14β-butoxy-4,5α-epoxy-3-hydroxy-17,17-dimethyl-6-oxomorphinanium-iodide | [I-].C(CCC)O[C@@]12CCC([C@H]3[C@]14C=1C(=C(C=CC1C[C@H]2[N+](CC4)(C)C)O)O3)=O | InChI=1S/C22H29NO4.HI/c1-4-5-12-26-22-9-8-16(25)20-21(22)10-11-23(2,3)17(22)13-14-6-7-15(24)19(27-20)18(14)21;/h6-7,17,20H,4-5,8-13H2,1-3H3;1H/t17-,20+,21+,22-;/m1./s1
